US04215127
Bromine (10.73 g, 0.067 mole) was slowly added to a stirred solution of 18.6 g (0.067 mole) of 1-(2,4-dichlorophenoxy)-3-methoxy-3-methyl-2-butanone in 350 ml diethyl ether containing 0.2 g aluminum chloride at about 3° C. After the addition, the mixture was stirred an additional 30 minutes, then poured into aqueous sodium bisulfite. The organic layer was separated, extracted with sodium bicarbonate solution, dried using MgSO4, and the solvent evaporated. There was thus obtained 23.6 g (99% yield) of 1-bromo-1-(2,4-dichlorophenoxy)-3-methoxy-3-methyl-2-butanone.

reactant | Bromine | 0.067 mole, 10.73 g | BrBr | Br2
reactant | 1-(2,4-dichlorophenoxy)-3-methoxy-3-methyl-2-butanone | 0.067 mole, 18.6 g | ClC1=C(OCC(C(C)(C)OC)=O)C=CC(=C1)Cl | C12H14Cl2O3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | diethyl ether | 350 ml, 0.2 g | C(C)OCC | C4H10O
product | 1-bromo-1-(2,4-dichlorophenoxy)-3-methoxy-3-methyl-2-butanone | 23.6 g, 99% yield | BrC(C(C(C)(C)OC)=O)OC1=C(C=C(C=C1)Cl)Cl | C12H13BrCl2O3
